US08383644B2
(S)-3-[4-(3,4-Dichloro-benzyloxy)-phenyl]-3-hydroxy-2,3,8,9-tetrahydro-6H-[1,4]dioxino[2,3-g]isoquinoline-7,8-dicarboxylic acid 7-tert-butyl ester 8-methyl ester
6,7-Dihydroxy-3,4-dihydro-1H-isoquinoline-2,3-dicarboxylic acid 2-tert-butyl ester 3-methyl ester (0.76 g) was dissolved in anhydrous DMF (20 mL). To this solution 1-[4-(3,4-dichloro-benzyloxy)-phenyl]-ethanone (0.93 g) and potassium carbonate (0.7 g) were added and heated to 100° C. The reaction mixture was stirred at this temperature for 12 hours. After the reaction was complete, the reaction mixture was poured into water and extracted with ethyl acetate (50 mL) and washed with brine (2×50 mL), dried over (sodium sulfate) and concentrated in vacuo to give the crude product. The residue was then purified by flash column chromatography (hexanes:ethyl acetate 90:10 to 60:40) to give the desired product, (S)-3-[4-(3,4-Dichloro-benzyloxy)-phenyl]-3-hydroxy-2,3,8,9-tetrahydro-6H-[1,4]dioxino[2,3-g]isoquinoline-7,8-dicarboxylic acid 7-tert-butyl ester 8-methyl ester (0.92 g). 1H NMR (400 MHz, CDCl3): 7.91 (d, 2H), 7.82 (d, 1H), 7.58 (d, 1H), 7.54 (d, 1H), 7.47 (m, 1H), 7.00 (m, 2H), 6.78 (m, 1H), 5.32 (s, 1H), 5.09 (s, 2H), 4.70 (m, 1H), 4.40 (m, 1H), 3.62 (s, 3H), 3.06 (m, 1H), 1.51 (s, 9H), 1.26 (m, 2H), and 0.88 (t, 2H).

reactant | 6,7-Dihydroxy-3,4-dihydro-1H-isoquinoline-2,3-dicarboxylic acid 2-tert-butyl ester 3-methyl ester | 0.76 g | COC(=O)C1N(CC2=CC(=C(C=C2C1)O)O)C(=O)OC(C)(C)C | C16H21NO6
reactant | 1-[4-(3,4-dichloro-benzyloxy)-phenyl]-ethanone | 0.93 g | ClC=1C=C(COC2=CC=C(C=C2)C(C)=O)C=CC1Cl | C15H12Cl2O2
reactant | potassium carbonate | 0.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | (S)-3-[4-(3,4-Dichloro-benzyloxy)-phenyl]-3-hydroxy-2,3,8,9-tetrahydro-6H-[1,4]dioxino[2,3-g]isoquinoline-7,8-dicarboxylic acid 7-tert-butyl ester 8-methyl ester | 0.92 g | COC(=O)C1N(CC=2C=C3C(=CC2C1)OC[C@](O3)(O)C3=CC=C(C=C3)OCC3=CC(=C(C=C3)Cl)Cl)C(=O)OC(C)(C)C | C31H31Cl2NO8
